US04200644
With stirring, 37.5 grams (1.25 moles) of paraformaldehyde was added to 250 ml of benzene. To the benzene-paraformaldehyde mixture 500 ml of concentrated hydrochloric acid was added slowly at ambient temperature. The mixture was then heated at 31° C. for 30 minutes, and 110 grams of thiophenol was added. Upon complete addition the reaction mixture was heated at 50°-55° C. for 2 hours, then allowed to cool to ambient temperature where it stood for 18 hours. The reaction mixture was separated and the organic layer washed with 250 ml of water. The water wash was extracted with 250 ml of benzene and the two benzene layers were combined. The benzene combination was washed with 300 ml of aqueous saturated sodium chloride, dried with magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to a residue which was further evaporated under high vacuum and distilled to give 115.9 grams (73.2%) of phenylthiomethyl chloride; b.p. 80° C./3 mm. The nmr and the ir spectra were consistent with the assigned structure.

reactant | paraformaldehyde | 1.25 moles, 37.5 grams | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
reactant | thiophenol | 110 grams | C1(=CC=CC=C1)S | C6H6S
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | phenylthiomethyl chloride | 115.9 grams, 73.2% | C1(=CC=CC=C1)SCCl | C7H7ClS
